US08466289B2
Synthesis of Intermediate 7-(2-Fluoro-4-iodo-phenylamino)-6-methyl-8-nitro-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-carboxylic acid tert-butyl ester (I-5b)
BOC anhydride (761 mg, 0.003 mol) was added to a stirred solution of 7-(2-fluoro-4-iodo-phenylamino)-6-methyl-8-nitro-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one (1 g, 0.002 mol) and DMAP (530 mg, 0.003 mol) in acetonitrile (20 mL). The resulting mixture was stirred at room temperature for 2 hours. The reaction was monitored by TLC (100% ethylacetate). The reaction mixture was concentrated and partitioned between ethylacetate and water. The organic layer was concentrated to afford 900 mg of the crude product which was used in the next step without further purification.

reactant | BOC anhydride | 0.003 mol, 761 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 7-(2-fluoro-4-iodo-phenylamino)-6-methyl-8-nitro-2,3-dihydro-1H-imidazo[1,2-a]pyridin-5-one | 0.002 mol, 1 g | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1C)=O)CCN2)[N+](=O)[O-] | C14H12FIN4O3
reactant | ethylacetate | C(C)OC(C)=O | C4H8O2
catalyst | DMAP | 0.003 mol, 530 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 7-(2-Fluoro-4-iodo-phenylamino)-6-methyl-8-nitro-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-carboxylic acid tert-butyl ester | 900 mg | C(C)(C)(C)OC(=O)N1CCN2C1=C(C(=C(C2=O)C)NC2=C(C=C(C=C2)I)F)[N+](=O)[O-] | C19H20FIN4O5
